US09079866B2
Step A: 7-(4-Chloro-2-fluorophenyl)-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine
Prepared in a manner similar to that found in Example 1 using of 7-bromo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine with (4-chloro-2-fluorophenyl)boronic acid. 1H NMR (400 MHz, CDCl3) δ 7.84 (m, 1H), 7.35-7.28 (m, 1H), 7.20-7.14 (m, 3H), 4.29-4.25 (m, 2H), 3.64-3.58 (m, 2H).

reactant | 7-bromo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine | BrC1=CC=2OCCNC2N=C1 | C7H7BrN2O
reactant | (4-chloro-2-fluorophenyl)boronic acid | ClC1=CC(=C(C=C1)B(O)O)F | C6H5BClFO2
product | 7-(4-Chloro-2-fluorophenyl)-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine | ClC1=CC(=C(C=C1)C1=CC=2OCCNC2N=C1)F | C13H10ClFN2O
